US06432615B1
(3-3) Synthesis of 4-(p-toluenesulfonyloxymethyl)phenyl methacrylate (A-01)
37 g of 4-hydroxymethylphenyl methacrylate was dissolved in 250 ml of THF and after adding thereto 32.4 ml of triethylamine, the resulting solution was cooled to 5° C. and stirred. To this solution, 64 g of p-toluenesulfonic anhydride was added in 10 parts. After the completion of addition, the solution was reacted at 5° C. or less for 1 hour and gradually cooled to room temperature. The reaction solution was left standing over night, and water and ethyl acetate were added to effect extraction by liquid separation. The organic phase was dried over magnesium sulfate, concentrated and then subjected to column chromatography to produce the objective compound. The objective compound was obtained as a slightly yellow-tinted oily product. Yield: 17.7 g (26.6%).

reactant | 4-hydroxymethylphenyl methacrylate | 37 g | C(C(=C)C)(=O)OC1=CC=C(C=C1)CO | C11H12O3
reactant | triethylamine | 32.4 ml | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonic anhydride | 64 g | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
reactant | water | O | H2O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(p-toluenesulfonyloxymethyl)phenyl methacrylate | C(C(=C)C)(=O)OC1=CC=C(C=C1)COS(=O)(=O)C1=CC=C(C=C1)C | C18H18O5S
